US06448397B1
To a mixture of 3-phenyl-3,4-dihydro-2H-1,4-benzoxazine (17 g, 80.5 mmol) in ethyl ether (100 mL) is added trifluoroacetic acid (6.2 mL 80.5 mmol). The resulting solution is chilled to 5° C. in an ice bath, to which n-butyl nitrite (9.4 mL 80.5 mmol) is added dropwise. The mixture is stirred for 1 h and transferred to a separatory funnel to which is slowly added potassium carbonate (2.6 g, 18.8 mmol) in water (200 mL). Solids formed in the ether layer. The layers are separated and ethyl ether (100 mL) is added to dissolve the solids. The ether layer is washed twice with water (200 mL), dried over magnesium sulfate, filtered and concentrated. The resulting oil is chilled in the refrigerator overnight. The solids formed from the oil are ground-up in hexanes and collected by filtration to give 15.7 g (81%) of 4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine.

reactant | 3-phenyl-3,4-dihydro-2H-1,4-benzoxazine | 80.5 mmol, 17 g | C1(=CC=CC=C1)C1COC2=C(N1)C=CC=C2 | C14H13NO
reactant | trifluoroacetic acid | 80.5 mmol, 6.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | n-butyl nitrite | 80.5 mmol, 9.4 mL | N(=O)OCCCC | C4H9NO2
reactant | potassium carbonate | 18.8 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine | 15.7 g, 81% | N(=O)N1C(COC2=C1C=CC=C2)C2=CC=CC=C2 | C14H12N2O2
